US04731374
4-Piperidino-cyclohexanol
Prepared from 4-amino-cyclohexanol and 1,5-dibromopentane.

reactant | 4-amino-cyclohexanol | NC1CCC(CC1)O | C6H13NO
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
product | 4-Piperidino-cyclohexanol | N1(CCCCC1)C1CCC(CC1)O | C11H21NO
